US05204112
The procedures of Example 5 were employed using DOPC mixed with 10 mol % of [14C]-stearic acid and trace amounts of [3H]-DPPC, in chloroform. Results similar to those of Example 4 employing oleic acid, were observed.

reactant | DOPC | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | C44H84NO8P
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
